US20010020112A1
To a stirred solution of methyl 3-(4-methylphenyl)-3-oxopropanoate (2.28 g, 11.1 mmol) in EtOH (10 ml), NaOEt (11 mg, 0.16 mmol) was added and methyl vinyl ketone (2.0 g, 27.8 mmol) was added dropwise less than 25° C. After stirring the reaction mixture for 30 min. less than 25° C., the solvent was evaporated under reduced pressure. Dil.HCl aq. was added to the residue and extracted by EtOAc. The organic layer was washed with water and brine, dried over MgSO4. After removal of the solvent, the residue was purified by column chromatography on silica gel with n-hexane-AcOEt to afford 2.73 g of ethyl 2-((4-methylphenyl)carbonyl)-5-oxohexanoate as a pale yellow oil (y=89.0%). 1H-NMR (ppm, 300 MHz, CDCl3) δ 7.92(2H, d, J=8.0 Hz), 7.28(2H, d, J=8.0 Hz), 4.41(1H, t, J=7.0 Hz), 4.14(2H, q, J=6.9 Hz), 2.55-2.60(2H, m), 2.13(3H, s), 1.17(3H, t, J=6.9 Hz)

reactant | methyl 3-(4-methylphenyl)-3-oxopropanoate | 11.1 mmol, 2.28 g | CC1=CC=C(C=C1)C(CC(=O)OC)=O | C11H12O3
reactant | methyl vinyl ketone | 27.8 mmol, 2.0 g | C(=C)C(=O)C | C4H6O
reactant | EtOH | 10 ml | CCO | C2H6O
catalyst | NaOEt | 0.16 mmol, 11 mg | CC[O-].[Na+]
product | ethyl 2-((4-methylphenyl)carbonyl)-5-oxohexanoate | 2.73 g | CC1=CC=C(C=C1)C(=O)C(C(=O)OCC)CCC(C)=O | C16H20O4
